US08106045B2
To a solution of (2S)-2-(4-aminophenyl)-4-((1R)-1-phenylethyl)morpholine (2.93 g, 10 mmol) and triethylamine (3.0 g, 30 mmol) in tetrahydrofuran (50 ml) was added chloroacetyl chloride (2.26 g, 20 mmol). The mixture was stirred at room temperature for 2 hours and partitioned between water and chloroform. The organic extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the precipitated crystals were collected by filtration, washed with isopropyl ether to give 2-chloro-N-{4-[(2S)-4-((1R)-1-phenylethyl)morpholin-2-yl]phenyl}acetamide (3.5 g, 97%) as yellow crystals.

reactant | (2S)-2-(4-aminophenyl)-4-((1R)-1-phenylethyl)morpholine | 10 mmol, 2.93 g | NC1=CC=C(C=C1)[C@H]1CN(CCO1)[C@H](C)C1=CC=CC=C1 | C18H22N2O
reactant | triethylamine | 30 mmol, 3.0 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 20 mmol, 2.26 g | ClCC(=O)Cl | C2H2Cl2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-chloro-N-{4-[(2S)-4-((1R)-1-phenylethyl)morpholin-2-yl]phenyl}acetamide | 3.5 g, 97% | ClCC(=O)NC1=CC=C(C=C1)[C@H]1CN(CCO1)[C@H](C)C1=CC=CC=C1 | C20H23ClN2O2
